US07326791B2
rac.-N-[2-benzoylamino-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin 1ylcarbonyl)benzamide
Prepared analogously to Example 125 from N-[2-amino-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide, benzoyl chloride, and triethylamine in tetrahydrofuran. Yield: 65%; Rf value: 0.32 (silica gel; dichloromethane/methanol=19:1); C29H28ClN5O3 (530.03); mass spectrum: (M+H)+=530/532 (chlorine isotope) and (M−H)-=528/530 (chlorine isotope).

reactant | N-[2-amino-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | NCC(C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C22H24ClN5O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane methanol | ClCCl.CO
product | rac.-N-[2-benzoylamino-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin 1ylcarbonyl)benzamide | Yield: 65% | C(C1=CC=CC=C1)(=O)NCC(C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C29H28ClN5O3
